US05128448
A solution of 3-quinolinepropanoic acid methyl ester (2.21 g, 10.3 mmol) in 10% KOH/MeOH (48.2 mL), H2O (20 mL) and methanol (134 mL) was stirred at room temperature for 3 h. Upon completion of reaction, the solution was concentrated and the aqueous residue was acidified to pH 5-6 with glacial HOAc. A crystalline solid formed which was filtered, washing with H2O until the filtrate was neutral and dried to give 3-quinolinepropanoic acid (1.84 g, 9.14 mmol) in 89% yield as a solid, mp 180°-181° C.

reactant | 3-quinolinepropanoic acid methyl ester | 10.3 mmol, 2.21 g | COC(CCC=1C=NC2=CC=CC=C2C1)=O | C13H13NO2
solvent | KOH MeOH | 48.2 mL | [OH-].[K+].CO
solvent | H2O | 20 mL | O | H2O
solvent | methanol | 134 mL | CO | CH4O
product | 3-quinolinepropanoic acid | 9.14 mmol, 1.84 g, 89% yield | N1=CC(=CC2=CC=CC=C12)CCC(=O)O | C12H11NO2
